US06414148B1
A mixture of (S)-2-(N,N-dimethylcarbamoyl)pyrrolidine (426 mg, 3 mmol), (Chem. pharm. Bull. 1973, 21, 2112-2116), 3-bromo-1-propanol (0.41 ml, 4.5 mmol) and potassium carbonate (829 mg, 6 mmol) in acetonitrile (6 ml) was heated at reflux for 8 hours. The mixture was allowed to cool and was partitioned between methylene chloride and water. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography, eluting with methylene chloride/methanol (a gradient from 90/10 to 60/40) to give (S)-1-(3-hydroxypropyl)-2-(N,N-dimethylcarbamoyl)pyrrolidine (290 mg, 48%).

reactant | (S)-2-(N,N-dimethylcarbamoyl)pyrrolidine | 3 mmol, 426 mg | CN(C(=O)[C@H]1NCCC1)C | C7H14N2O
reactant | 3-bromo-1-propanol | 4.5 mmol, 0.41 ml | BrCCCO | C3H7BrO
reactant | potassium carbonate | 6 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | (S)-1-(3-hydroxypropyl)-2-(N,N-dimethylcarbamoyl)pyrrolidine | 290 mg, 48% | OCCCN1[C@@H](CCC1)C(N(C)C)=O | C10H20N2O2
